US06849640B2
8-(2,4-dichlorophenyl)-2,3,4,4a,5,9b-hexahydro-1H-pyrido[4,3-b]indole
In a 50 ml flask, tert-butyl 8-(2,4-dichlorophenyl)-1,3,4,4a,5,9b-hexahydro-2H-pyrido[4,3-b]indole-2-carboxylate (215 mg) was dissolved in 5 mL dichloromethane and cooled to 0° C. with an ice bath. After the addition of 5 mL trifluoroacetic acid, the reaction stirred at room temperature for 45 minutes. The reaction was concentrated in vacuo then diluted with 5M sodium hydroxide. After three ethyl acetate extractions, the combined organics were washed with brine then dried over magnesium sulfate and concentrated to give crude material which was purified by column chromatography (0.5/5/93.5 ammonium hydroxide/methanol/dichloromethane) to give 101 mg (62%) of the title compound as an off-white solid. MS (ESI+) for C17H16N2Cl2 m/z 319.1 (M+H)+.

reactant | trifluoroacetic acid | 5 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | tert-butyl 8-(2,4-dichlorophenyl)-1,3,4,4a,5,9b-hexahydro-2H-pyrido[4,3-b]indole-2-carboxylate | 215 mg | ClC1=C(C=CC(=C1)Cl)C1=CC=2C3C(NC2C=C1)CCN(C3)C(=O)OC(C)(C)C | C22H24Cl2N2O2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 8-(2,4-dichlorophenyl)-2,3,4,4a,5,9b-hexahydro-1H-pyrido[4,3-b]indole | 101 mg, 62% | ClC1=C(C=CC(=C1)Cl)C1=CC=2C3C(NC2C=C1)CCNC3 | C17H16Cl2N2
